US05091403
(iii) methyl (2-isopropoxyacetamido)benzoate
To a solution of 4.90 g (33 mmol) of methyl anthranilate and 6.1 ml of triethylamine in 50 ml of dichloromethane was dropwise added a solution of 4.43 g (33 mmol) of isopropoxyacetylchloride in 20 ml of dichloromethane under chilling with ice for a period of 15 min. The resulting mixture was stirred over night at room temperature. The reaction mixture was washed sequentially with 5 % aqueous sodium carbonate, 3 N hydrochloric acid and 5% aqueous sodium carbonate, and then was dried over anhydrous sodium sulfate. The solvent was distilled off to leave 5.59 g of the desired compound as a residual pale brown oil. (Yield: 68.6 %)

reactant | methyl anthranilate | 33 mmol, 4.90 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | isopropoxyacetylchloride | 33 mmol, 4.43 g | C(C)(C)OCC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl (2-isopropoxyacetamido)benzoate | 5.59 g, Yield: 68.6 % | C(C)(C)OCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C13H17NO4
